US04372953
1-Methyl-5-chloro-1,2,3,4-tetrazole (1.4 g) and 3-mercaptopropyl 2-pyridyl ketone (1.8 g) is dissolved in methanol (100 ml). Sodium hydroxide (0.6 g) is added to the solution and the mixture is refluxed for 3 hours. Methanol is distilled off and water is added to the residue. The mixture is extracted with chloroform. The chloroform solution is washed with dil. aqueous sodium hydroxide, water and saturated aqueous sodium chloride and dried over sodium sulfate. Chloroform is distilled off and the residue is purified by column chromatography (Wakogel C-200, eluant: chloroform) and the product is recrystallized from hexane-ether to obtain 1-methyl-5-[3-(2-pyridylcarbonyl)propyl]thio-1,2,3,4-tetrazole (0.2 g) as colorless needles, m.p. 73°-75° C.

reactant | 1-Methyl-5-chloro-1,2,3,4-tetrazole | 1.4 g | CN1N=NN=C1Cl | C2H3ClN4
reactant | 3-mercaptopropyl 2-pyridyl ketone | 1.8 g | N1=C(C=CC=C1)C(=O)CCCS | C9H11NOS
reactant | Sodium hydroxide | 0.6 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 1-methyl-5-[3-(2-pyridylcarbonyl)propyl]thio-1,2,3,4-tetrazole | 0.2 g | CN1N=NN=C1SCCCC(=O)C1=NC=CC=C1 | C11H13N5OS
